US04399140
A mixture of 5-ethoxycarbonyl-2,4-dimethylthiazole (926 mg), N-bromosuccinimide (890 mg) and benzoyl peroxide (8 mg) in carbon tetrachloride (11 ml) was heated at reflux. After 11/2 h the reaction mixture was allowed to cool and filtered. The filtrate was evaporated and the residual oil diluted with petrol (b.p. 40°-60° C.)-ethyl acetate, 4:1, (5 ml) resulting in the precipitation of a solid. After 1 h the suspension was filtered and the filtrate evaporated to an orange oil. Petrol (2 ml) was added to the oil resulting in the formation of a solid which after cooling was collected to give crystals of 2-bromomethyl-5-ethoxycarbonyl-4-methylthiazole (546 mg), m.p. 48°-58° C., λmax (EtOH) 266 nm (ε 8,640).

reactant | 5-ethoxycarbonyl-2,4-dimethylthiazole | 926 mg | C(C)OC(=O)C1=C(N=C(S1)C)C | C8H11NO2S
reactant | N-bromosuccinimide | 890 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 11 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | benzoyl peroxide | 8 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 2-bromomethyl-5-ethoxycarbonyl-4-methylthiazole | 546 mg | BrCC=1SC(=C(N1)C)C(=O)OCC | C8H10BrNO2S
